US04888132
Preparation of hydroxyphenylstearic acid (a)
A 500-ml autoclave was charged with 166 g of commercial oleic acid (product of Nippon Oils & Fats Co., Ltd.), 169 g of phenol (product of Katayama Kagaku Kogyo K.K.), 6.6 g of activated clay (Nippon Kassei Hakudo K.K.), and 0.13 g of 85% aqueous phosphoric acid (product of Katayama Kagaku Kogyo K.K.). After purging the autoclave with nitrogen gas, the contents were allowed to react by heating at 200° C. for 4 hours. After completion of the reaction, the activated clay was filtered off and the unreacted phenol was distilled away at 80°-100° C., 3 mmHg to yield a yellow viscous reaction product in an amount of 224 g.

reactant | oleic acid | 166 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | phenol | 169 g | C1(=CC=CC=C1)O | C6H6O
reactant | phosphoric acid | 0.13 g | P(O)(O)(O)=O | H3O4P
product | hydroxyphenylstearic acid | OC(C(=O)O)(CCCCCCCCCCCCCCCC)C1=CC=CC=C1 | C24H40O3
